Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Percodan / Naprosyn
 
Attending: ___
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ extended open appendectomy 

 
History of Present Illness:
This patient is a ___ year old female who complains of Abd
pain. Patient presents with 2 days of abdominal pain and
bloating, gradual onset. She went to her PCP today who
ordered a CT scan. CT scan showed a perforated appendicitis
versus cecum. His referred to the emergency department or
she was initially hypotensive to the ___, upper ___ after
250 cc of normal saline. No nausea. No fevers. She received
Levaquin Flagyl and Zosyn. As there were no ICU beds
available at ___ she was transferred here for
surgery evaluation. She has no shortness of breath.

 
Past Medical History:
Hypothyroid, HTN, HLD, DM, nephrolithiasis, last colonoscopy ___ 
yrs ago (?normal) 
 
Social History:
___
Family History:
 Negative for colon cancer, mother with breast cancer at ___ 
and heart disease, father with thyroid disease 
 
Physical Exam:
Physical Exam: ___:  upon admission:

Vitals:T 98.8, HR 81 BP 92/54 RR 22 97% NC 
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: + rub right, prolonged expiratory phase
ABD: Soft but distended, tender RLQ, mild voluntary guarding, no
rebound
DRE: normal tone, no gross or occult blood
Ext: No ___ edema, ___ warm and well perfused, ulcerative lesion
left shin

Physical examination upon discharge:  ___:

___:  NAD
CV:  ns1, s2, -s3, -s4
LUNGS:  clear
ABDOMEN:  soft, tender, port sites with DSD
EXT:  no pedal edema bil., + dp bil., area of localized 
tenderness medial aspest of right lower leg
NEURO:  alert and oriented x 3, speech clear

 
Pertinent Results:
___ 03:30PM BLOOD WBC-10.5 RBC-3.76* Hgb-12.1 Hct-35.7* 
MCV-95 MCH-32.1* MCHC-33.9 RDW-13.8 Plt ___
___ 02:53AM BLOOD WBC-12.4* RBC-3.71* Hgb-11.9* Hct-35.1* 
MCV-95 MCH-32.2* MCHC-34.0 RDW-13.5 Plt ___
___ 11:30PM BLOOD WBC-18.5* RBC-3.82* Hgb-12.5 Hct-35.3* 
MCV-92 MCH-32.8* MCHC-35.5* RDW-13.6 Plt ___
___ 03:30PM BLOOD Plt ___
___ 02:53AM BLOOD ___ PTT-22.2* ___
___ 03:30PM BLOOD Glucose-188* UreaN-12 Creat-0.5 Na-135 
K-3.8 Cl-97 HCO3-26 AnGap-16
___ 02:30AM BLOOD ALT-16 AST-18 AlkPhos-93 TotBili-0.7
___ 03:30PM BLOOD Calcium-8.7 Phos-1.9* Mg-1.9
___ 02:30AM BLOOD CEA-2.1

___:  cat scan of abdomen and pelvis:

The appendix appears markedly abnormal, with dilatation, wall 
thickening, and fluid within. There is a large amount of 
adjacent fat stranding and some fluid surrounding the appendix, 
as well as around the cecum and terminal ileum, which also 
appear thickened. Multiple foci of intra-abdominal free air 
present in the right lower quadrant. This presentation is 
concerning for acute perforated appendicitis with secondary 
inflammation of the cecum and terminal ileum. 
  
Additionally, contributing to the inflammation of the cecum and 
terminal ileum may be an atypical infection, such as Yersinia or 
tuberculosis, although this is much less likely.  Recommend 
correlation with travel history and symptoms. 

___:  chest x-ray:

1.   Bibasilar atelectasis. 
  
2.  No pulmonary edema. 

INDICATIONS FOR CONSULT:  
Difficult crossmatch and/or evaluation of irregular antibody (s) 

  
CLINICAL/LAB DATA: Ms. ___ is a ___ year old woman with past 
medical 
history of melanoma who presents complaining of abdominal pain. 
A 
blood sample was sent for type and screen. 
  
Of note, anti-C and anti-D were previously identified at 
___ 
___ (diagnosed in ___. 
  
LABORATORY TESTING: 
Patient ABO/Rh: Group A, Rh Negative 
Antibody Screen: Positive 
Antibody Identity: Anti-D, Anti-C 
Direct Coombs Test: Negative 
Antigen Phenotype: D-antigen and C-antigen Negative

___: EKG:

 Sinus rhythm. There is an early transition which is 
non-specific. There are Q waves in the inferior leads consistent 
with possible myocardial infarction. 
Compared to the previous tracing of ___ inferior Q waves are 
more apparent. 
  

  

  

 
Brief Hospital Course:
The patient is a ___ woman with a 2 day history of right 
lower quadrant pain.  Upon admisssion, her white blood cell 
count was 22.  She underwent a CT scan which  showed a 
phlegmonous mass in the right lower quadrant with associated 
induration of her cecum, terminal ileum, and adjacent loop of 
small bowel and a fecalith in the appendix.  There was no 
obvious abscess cavity.  She was initially treated with IV 
antibiotics but failed to respond.  In the emergency room the 
patient was reportedly hypotensive and required additional 
intravenous fluids.  She was admitted to the intensive care unit 
for monitoring.  

On HD #2, the patient was taken to the operating room where she 
was found to have a perforated appendix.  She underwent an 
extended open appendectomy.  The cecum was significantly 
indurated at the base of the appendix.  There was a normal area 
of cecum between the appendix and the terminal ileum and a 
cecectomy was  performed.  The operative course was stable with 
minimal blood loss.  The patient was extubated after the 
procedure and monitored in the recover room.

The patient was transferred to the surgical floor on POD #2 in 
stable condition. She resumed a clear liquid diet and progresed 
to a regular diet.  Her incisional pain was controlled with oral 
analgesia and she was voiding without difficulty. Appointments 
for follow-up were made with the acute care service and with her 
primary care provider.  The patient was discharged home with her 
daughter. She was instructed in her home antibiotic course at 
discharge      
 
 
Medications on Admission:
 Januvia 100', Biotin 5000', D3 ___, Atenolol 100', Crestor 
40', synthroid 0.1', folic acid 1', HCTZ 50', KCL 20', KCitrate 
10'', ASA 81', One a day vitamins', Flaxseed oil 1000', 
Chloreniramine maleate 8'', pseudoephedrine 60'' 
 
Discharge Medications:
1. Acetaminophen 650 mg PO Q6H:PRN pain, headache 
2. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
last dose ___ 
RX *amoxicillin-pot clavulanate 875 mg-125 mg 1 tablet(s) by 
mouth every twelve (12) hours Disp #*16 Tablet Refills:*0
3. Aspirin 81 mg PO DAILY 
4. Atenolol 100 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
6. Famotidine 20 mg PO BID 
7. Hydrochlorothiazide 50 mg PO DAILY 
8. Januvia (sitaGLIPtin) 100 mg oral DAILY 
9. Levothyroxine Sodium 100 mcg PO DAILY 
10. Multivitamins 1 TAB PO DAILY 
11. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
avoid driving while on this ___ cause dizziness 
RX *oxycodone 5 mg 1 tablet(s) by mouth every four (4) hours 
Disp #*25 Tablet Refills:*0
12. Pseudoephedrine 30 mg PO BID 
13. Rosuvastatin Calcium 40 mg PO DAILY 
14. Senna 17.2 mg PO BID:PRN constipation   
15. Chlorpheniramine Maleate 4 mg PO QID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
peforated appendicitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain and on 
imaging found to have a perforated appendix.  You were taken to 
the operating room where you had your appendix and section of 
your large bowel removed.  You are slowly recovering from your 
injuries and you are preparing for discharge home with the 
following instructions:

  ACTIVITY:
 
Do not drive until you have stopped taking pain medicine and 
feel you could respond in an emergency.
You may climb stairs. 
You may go outside, but avoid traveling long distances until you 
see your surgeon at your next visit.
Don't lift more than ___ lbs for 6 weeks. (This is about the 
weight of a briefcase or a bag of groceries.) This applies to 
lifting children, but they may sit on your lap.)
You may start some light exercise when you feel comfortable.
You will need to stay out of bathtubs or swimming pools for a 
time while your incision is healing. Ask your doctor when you 
can resume tub baths or swimming.
Heavy exercise may be started after 6 weeks, but use common 
sense and go slowly at first.
You may resume sexual activity unless your doctor has told you 
otherwise.
 
HOW YOU MAY FEEL: 
 
You may feel weak or "washed out" for 6 weeks. You might want to 
nap often. Simple tasks may exhaust you.
You may have a sore throat because of a tube that was in your 
throat during surgery.
You might have trouble concentrating or difficulty sleeping. You 
might feel somewhat depressed.
You could have a poor appetite for a while. Food may seem 
unappealing.
All of these feelings and reactions are normal and should go 
away in a short time.  If they do not, tell your surgeon.
 
YOUR INCISION:
Your incision may be slightly red aroudn the stitches or 
staples. This is normal.
You may gently wash away dried material around your incision.
Do not remove steri-strips for 2 weeks. (These are the thin 
paper strips that might be on your incision.) But if they fall 
off before that that's okay).
It is normal to feel a firm ridge along the incision. This will 
go away.
Avoid direct sun exposure to the incision area.
Do not use any ointments on the incision unless you were told 
otherwise.
You may see a small amount of clear or light red fluid staining 
your dressing r clothes. If the staining is severe, please call 
your surgeon.
You may shower. As noted above, ask your doctor when you may 
resume tub baths or swimming.
Ove the next ___ months, your incision will fade and become 
less prominent.
 
YOUR BOWELS:
Constipation is a common side effect of medicine such as 
Percocet or codeine. If needed, you may take a stool softener 
(such as Colace, one capsule) or gentle laxative (such as milk 
of magnesia, 1 tbs) twice a day. You can get both of these 
medicines without a prescription.
If you go 48 hours without a bowel movement, or have pain moving 
the bowels, call your surgeon.
After some operations, diarrhea can occur. If you get diarrhea, 
don't take anti-diarrhea medicines. Drink plenty of fluitds and 
see if it goes away. If it does not go away, or is severe and 
you feel ill, please call your surgeon.
 
 
PAIN MANAGEMENT:
It is normal to feel some discomfort/pain following abdominal 
surgery. This pain is often described as "soreness". 
Your pain should get better day by day. If you find the pain is 
getting worse instead of better, please contact your surgeon.
You will receive a prescription from your surgeon for pain 
medicine to take by mouth. It is important to take this medicine 
as directied. Do not take it more frequently than prescribed. Do 
not take more medicine at one time than prescribed.
Your pain medicine will work better if you take it before your 
pain gets too severe.
Talk with your surgeon about how long you will need to take 
prescription pain medicine. Please don't take any other pain 
medicine, including non-prescription pain medicine, unless your 
surgeon has said its okay.
IF you are experiencing no pain, it is okay to skip a dose of 
pain medicine.
Remember to use your "cough pillow" for splinting when you cough 
or when you are doing your deep breathing exercises.
If you experience any of the folloiwng, please contact your 
surgeon:
- sharp pain or any severe pain that lasts several hours
- pain that is getting worse over time
- pain accompanied by fever of more than 101
- a drastic change in nature or quality of your pain
 
MEDICATIONS:
Take all the medicines you were on before the operation just as 
you did before, unless you have been told differently.
In some cases you will have a prescription for antibiotics or 
other medication.
If you have any questions about what medicine to take or not to 
take, please call your surgeon.
 
DANGER SIGNS:
Please call your surgeon if you develop:
- worsening abdominal pain
- sharp or severe pain that lasts several hours
- temperature of 101 degrees or higher
- severe diarrhea
- vomiting
- redness around the incision that is spreading
- increased swelling around the incision
- excessive bruising around the incision
- cloudy fluid coming from the wound
- bright red blood or foul smelling discharge coming from the 
wound
- an increase in drainage from the wound
 
Followup Instructions:
___